US05047521
A 0.35 g quantity of particulate potassium hydroxide and 0.29 g of 2-chloromethylfuran were added to a solution of 1.00 g of 2'-deoxy-5-fluoro-5'-O-trityluridine in 30 ml of dioxane. The mixture was stirred at 80° C. for 2 hours. The solvent was distilled off and the residue was dissolved in 30 ml of ethyl acetate. The solution was washed with water and dried. The residue was dissolved in 15 ml of 80% acetic acid and the solution was left to stand at 80° C. for 2 hours. The solvent was distilled off and the residue was dissolved in ml of ethyl acetate. The solution was washed with water and dried. The residue was treated with chloroform, the insolubles were filtered and recrystallized from ethanol, giving 0.37 g of 2'-deoxy-5-fluoro-3'-O-(2-furanylmethyl)uridine in a yield of 55%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-chloromethylfuran | 0.29 g | ClCC=1OC=CC1 | C5H5ClO
reactant | 2'-deoxy-5-fluoro-5'-O-trityluridine | 1.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C28H25FN2O5
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-5-fluoro-3'-O-(2-furanylmethyl)uridine | 0.37 g, yield of 55% | FC=1C(NC(N([C@H]2C[C@H](OCC=3OC=CC3)[C@@H](CO)O2)C1)=O)=O | C14H15FN2O6
